US04546183
9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-thiol
A mixture of 2.8 g (7.8 mmole) of 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one, 2.8 g (37 mmole) of thiourea, and 8.0 ml (32 mmole) of a 4.0M methanol solution of sodium methoxide in 80 ml of methanol was stirred at room temperature for 18 hr. The mixture was diluted with water and extracted with ether. The aqueous layer was neutralized with acetic acid and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a yellow solid, mp 238°-239° C. Recrystallization from tetrahydrofuran gave yellow crystals, mp 232°-234° C.

reactant | 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | 7.8 mmole, 2.8 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)Cl)=CN(C)C)=O)C=C1 | C19H16Cl2N2O
reactant | thiourea | 37 mmole, 2.8 g | NC(=S)N | CH4N2S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | O | H2O
solvent | methanol | 4.0M | CO | CH4O
product | 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-thiol | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC(=N3)S)C=C1 | C18H11Cl2N3S
